US07598264B2
Step 5: Methyl 5-methoxy-1,3-oxazole-2-carboxylate
To a warm (35-40° C.) suspension of phosphorous pentoxide (77.7 g, 109 mmol) in anhydrous acetonitrile (200 mL) was added methyl[(2-methoxy-2-oxoethyl)amino](oxo)acetate (19.19 g, 109.6 mmol). The reaction mixture was heated to 65° C., then stirred overnight at room temperature. The product mixture was cooled to 0° C. and carefully quenched with ice and brine keeping the reaction from generating an unsuitable exotherm. The resultant mixture was extracted with ethyl acetate (600 mL). The organic extract was washed with brine, dried with Na2SO4, then concentrated under vacuum. The residue was subjected to column chromatography on silica gel eluting with 100% CH2Cl2. The appropriate fractions were combined and concentrated to afford the title compound as a light yellow solid that was used without further purification.

reactant | phosphorous pentoxide | 109 mmol, 77.7 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | methyl[(2-methoxy-2-oxoethyl)amino](oxo)acetate | 109.6 mmol, 19.19 g | COC(C(=O)NCC(=O)OC)=O | C6H9NO5
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | Methyl 5-methoxy-1,3-oxazole-2-carboxylate | COC1=CN=C(O1)C(=O)OC | C6H7NO4
